US08119563B2
Step B Synthesis of 1-[(4-pyrimidin-2-yloxyphenyl)methyl]piperidin-4-one as an Intermediate
A solution of 1.47 grams (0.0096 mole) of 4-piperidone monohydrate hydrochloride, 2.1 grams (0.0096 mole) of 2-[4-(chloromethyl)phenoxy]pyrimidine, and 4.34 grams (0.0336 mole) of bis(methylethyl)ethylamine in 35 mL of dimethylsulfoxide (DMSO) was stirred at ambient temperature for about 24 hours. The reaction mixture was then diluted with 200 mL of water and was extracted two times with 200 mL of ethyl acetate. The extracts were then combined and washed two times with 75 mL of an aqueous mixture of 10% lithium chloride. The resultant organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica get using 1:2 ethyl acetate:petroleum ether as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 2.71 grams of the subject compound.

reactant | 4-piperidone monohydrate hydrochloride | 0.0096 mole, 1.47 grams | Cl.O.N1CCC(CC1)=O
reactant | 2-[4-(chloromethyl)phenoxy]pyrimidine | 0.0096 mole, 2.1 grams | ClCC1=CC=C(OC2=NC=CC=N2)C=C1 | C11H9ClN2O
reactant | bis(methylethyl)ethylamine | 0.0336 mole, 4.34 grams | CC(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 35 mL | CS(=O)C | C2H6OS
solvent | water | 200 mL | O | H2O
product | 1-[(4-pyrimidin-2-yloxyphenyl)methyl]piperidin-4-one | 2.71 grams | N1=C(N=CC=C1)OC1=CC=C(C=C1)CN1CCC(CC1)=O | C16H17N3O2
